US09029560B2
Preparation of 1-(4-(trifluoromethoxy)phenyl)-3-(4-vinylphenyl)-1H-1,2,4-triazole (C43)
Methyltriphenylphosphonium bromide (32.2 g, 90.0 mmol) and 1,8-diazabicycloundec-7-ene (14.9 mL, 99.0 mmol) were dissolved in tetrahydrofuran (260 mL) and refluxed for 30 minutes. 4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde (15.0 g, 45.0 mmol) was added, and the reaction was heated at 65° C. for 5 hours. The solution was cooled and stirred at room temperature overnight. The reaction mixture was poured into water and extracted with hexanes. The organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated. The crude compound was purified by flash column chromatography using 0-70% ethyl acetate/hexanes as eluent to afford the title compound as a white solid (10.4 g, 67%): 1H NMR (400 MHz, CDCl3) δ 8.57 (s, 1H), 8.16 (d, J=8.3 Hz, 2H), 7.80 (d, J=9.0 Hz, 2H), 7.58-7.47 (m, 2H), 7.39 (d, J=9.1 Hz, 2H), 6.77 (dd, J=17.6, 10.9 Hz, 1H), 5.84 (dd, J=17.6, 0.8 Hz, 1H), 5.32 (dd, J=10.9, 0.8 Hz, 1H); 19F NMR (376 MHz, CDCl3) δ −58.02; ESIMS m/z 332 ([M+H]+).

reactant | 1,8-diazabicycloundec-7-ene | 99.0 mmol, 14.9 mL | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
reactant | 4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde | 45.0 mmol, 15.0 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=O)C=C1)(F)F | C16H10F3N3O2
reactant | water | O | H2O
catalyst | Methyltriphenylphosphonium bromide | 90.0 mmol, 32.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 260 mL | O1CCCC1 | C4H8O
product | 1-(4-(trifluoromethoxy)phenyl)-3-(4-vinylphenyl)-1H-1,2,4-triazole | 10.4 g, 67% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C=C)(F)F | C17H12F3N3O
